Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
nifedipine / Amitriptyline / Prilosec OTC / Terazosin / 
Amlodipine / Atenolol / Oxybutynin / Hydrochlorothiazide / 
spironolactone
 
Attending: ___
 
Chief Complaint:
Nausea
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is an ___ with atrial fibrillation/flutter on 
dabigatran, coronary artery disease, diastolic heart failure 
(LVEF 60% in ___, hypertension/hyperlipidemia, and vascular 
dementia who presents with nausea and headache. She is 
___ only, and collateral information is obtained 
from her sister ___. According to her sister, she was in her 
usual state of health until days to a week prior to admission, 
when she developed nausea, initially without vomiting, with 
onset of frequent nonbloody, nonbilious emesis on the night 
prior to admission. She also experienced intermittent diffuse 
headaches, consistent with chronic of unclear etiology, over the 
same period. At least as far as her sister is aware, she has not 
experienced fevers/chills, chest pain/palpitations, cough, nasal 
congestion/rhinorrhea, sore throat, shortness of breath at 
rest/on exertion, difficulty lying flat, abdominal pain, loose 
stools, hematuria/dysuria, or myalgias. She has not been exposed 
to sick contacts or made any dietary changes. Her sister does 
indicate that her appetite has been poor for some time, leading 
to unintentional weight loss ("lots") over a ___ period. She 
experiences chronic intermittent peripheral edema.

Of note, she was admitted most recently from ___ for 
episodic asymptomatic bradycardia to ___ attributed to atrial 
flutter with variable (2:1 to 8:1) block. Home diltiazem was 
held, given degree of intrinsic nodal disease, and amlodipine 
was initiated along with preexisting lisinopril for blood 
pressure control, with pressures of 150s-160s systolic by the 
time of discharge. More recently, ___ found a 2-lb weight gain 
(133 lbs, up from 131 lbs at baseline) in association with 
bilateral pitting edema, right > left, on ___, at which time 
patient denied shortness of breath. Spironolactone was initiated 
by her PCP ___ ___ for symptomatic diastolic heart failure, 
including peripheral edema and pleural effusions, but was 
discontinued within weeks due to hyponatremia; she reportedly 
has become hyponatremic on other diuretics in the past. She has 
no home oxygen requirement.  
 
In the ED, initial vital signs were as follows: 97.2 112 170/76 
15 100% 3L. Admission labs were notable for Hct of 33.7 
(consistent with baseline), platelets of 142 (consistent with 
baseline), and proBNP of 3220 (no priors available). CXR 
revealed bilateral pleural effusions, cardiomegaly and mild 
edema suggesting fluid overload, and possible underlying 
consolidation. She received acetaminophen 650mg x1, ceftriaxone 
1g x1, azithromycin 500mg x1, and furosemide 40mg x1, with 
1100cc UOP. Vital signs at transfer were as follows: 98.4 70 
165/83 18 100%. 

On arrival to the floor, patient reports that she is not in 
pain. Further discussion is difficult due to language barrier. 
 
Past Medical History:
Hypertension/hyperlipidemia
Coronary artery disease complicated by myocardial infarction 
Atrial fibrillation/flutter
Diastolic heart failure (LVEF 60% in ___
Vascular dementia
Headaches
Nephrolithiasis
Cataracts
Otitis media
Syncope/possible sick sinus syndrome
Status post cholecystectomy
Gastroesophageal reflux
Hyponatremia
Anemia
Lumbar radiculopathy
 
Social History:
___
Family History:
Mother deceased at ___ yo from breast cancer. Father deceased at 
___ yo. Son deceased at ___ yo from heart attack. 
 
Physical Exam:
On admission: 
VS 97.4 140/P 62 18 96
GEN Alert, oriented, no acute distress
HEENT NCAT MMM EOMI sclera anicteric, OP clear, left-sided 
hearing loss
NECK supple, no JVD, no LAD
PULM Good aeration, CTAB no wheezes, rales, ronchi
CV RRR normal S1/S2, no mrg
ABD soft NT ND normoactive bowel sounds, no r/g
EXT WWP 2+ pulses palpable bilaterally, trace pitting edema 
bilaterally
NEURO CNs2-12 intact, motor function grossly normal
SKIN no ulcers or lesions

DISCHARGE:
I/O: 200po/incontinent of urine
 NAD, AAO speaking ___
 mucosa moist and pink
 RRR, no m/r/g
 CTAB
 BS+, soft, NT, ND
 no ___ pretibial edema
 
Pertinent Results:
___ 10:15AM BLOOD WBC-6.4 RBC-3.64* Hgb-11.1* Hct-33.7* 
MCV-93 MCH-30.6 MCHC-33.1 RDW-14.1 Plt ___
___ 08:09AM BLOOD WBC-4.9 RBC-3.45* Hgb-10.6* Hct-31.5* 
MCV-91 MCH-30.6 MCHC-33.6 RDW-14.2 Plt ___
___ 09:35AM BLOOD WBC-5.6 RBC-3.99* Hgb-11.3* Hct-35.7* 
MCV-89 MCH-28.3 MCHC-31.6 RDW-13.6 Plt ___
___ 07:33AM BLOOD WBC-5.6 RBC-3.60* Hgb-10.5* Hct-33.1* 
MCV-92 MCH-29.3 MCHC-31.9 RDW-14.1 Plt ___
___ 08:10AM BLOOD WBC-5.6 RBC-3.55* Hgb-10.6* Hct-32.5* 
MCV-92 MCH-29.9 MCHC-32.7 RDW-14.1 Plt ___
___ 10:15AM BLOOD Neuts-84.3* Lymphs-10.6* Monos-3.4 
Eos-1.4 Baso-0.4
___ 10:15AM BLOOD Glucose-113* UreaN-19 Creat-1.0 Na-135 
K-4.2 Cl-99 HCO3-25 AnGap-15
___ 08:09AM BLOOD Glucose-88 UreaN-18 Creat-1.0 Na-138 
K-4.0 Cl-101 HCO3-32 AnGap-9
___ 09:35AM BLOOD Glucose-104* UreaN-18 Creat-1.0 Na-141 
K-3.8 Cl-99 HCO3-27 AnGap-19
___ 07:33AM BLOOD Glucose-98 UreaN-23* Creat-1.2* Na-141 
K-4.2 Cl-101 HCO3-32 AnGap-12
___ 08:10AM BLOOD Glucose-102* UreaN-26* Creat-1.2* Na-138 
K-3.9 Cl-100 HCO3-32 AnGap-10
___ 10:15AM BLOOD CK-MB-5 cTropnT-0.07* proBNP-3220*
___ 08:09AM BLOOD CK-MB-5 cTropnT-0.11*
___ 04:20PM BLOOD CK-MB-4 cTropnT-0.09*
___ 01:03AM BLOOD CK-MB-4 cTropnT-0.09*
___ 09:35AM BLOOD cTropnT-0.06*
___ 09:35AM BLOOD cTropnT-0.06*
___ 04:20PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 05:35PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG

TTE ___:
The left atrium is mildly dilated. There is moderate symmetric 
left ventricular hypertrophy. The left ventricular cavity size 
is normal. Regional left ventricular wall motion is normal. 
Overall left ventricular systolic function is normal (LVEF>55%). 
Right ventricular chamber size and free wall motion are normal. 
The aortic valve leaflets are moderately thickened. There is 
mild aortic valve stenosis (valve area 1.2-1.9cm2). Mild (1+) 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. Moderate (2+) mitral regurgitation is seen, 
but may be underestimated due to Coanda effect and acoustic 
shadowing from the mitral annulus calcification. The estimated 
pulmonary artery systolic pressure is normal. There is a small 
pericardial effusion. 

IMPRESSION: Moderate symmetric LVH with normal global and 
regional biventricular systolic function. Mild aortic stenosis. 
Mild aortic regurgitation. At least moderate mitral 
regurgitation.

 
Brief Hospital Course:
Hospitalization Summary: 
Ms. ___ is an ___ yo ___ F with atrial 
fibrillation/flutter on dabigatran, coronary artery disease, 
diastolic heart failure (LVEF 60% in ___, 
hypertension/hyperlipidemia, and vascular dementia who presented 
with nausea and headache and was found to be in acute-on-chronic 
diastolic heart failure in the setting of NSTEMI.

Active Issues:
#NSTEMI: Although viral infection was suspected initially on the 
basis of history of nausea/vomiting obtained from her sister, 
revised history of nausea without vomiting in the absence of 
sick contacts obtained from the patient via interpreter raised 
concern for acute coronary syndrome, with nausea representing 
anginal equivalent. While admission EKG was negative for acute 
ischemic changes, subsequent EKG on hospital day 2 demonstrated 
new T wave inversions in II, III, aVF, and V3-V6 in association 
with rising troponinemia of 0.07 to 0.11. She received 81mg 
aspirin x4 and atorvastatin 80mg, and home Pradaxa was held in 
favor of a heparin drip. She was transferred from medicine to 
___ for further management. On ___, troponins peaked at 0.11 
and then downtrended. MBs were flat. BNP was elevated to 3220 
and it was thought the the primary pathology was CHF causing 
heart strain and troponin leak. Heparin gtt was discontinued 
after 48 hrs and dabigatran was restarted. Aspirin was increased 
to 325 mg qday and statin to atorvastatin 80 mg qday. 

#Acute-on-chronic diastolic heart failure: She was found to be 
in acute-on-chronic heart failure on admission, with clinical 
signs of volume overload, moderate bilateral pleural effusions 
and mild pulmonary edema on admission CXR, and elevated proBNP = 
3220. Although transiently hypoxic with 3-L supplemental oxygen 
requirement in the ED, she was on room air by the time of 
arrival to the floor, with approximately 2-L urine output to 
40mg IV Lasix in the ED. She was diuresed with 20- 40 mg IV 
lasix daily thereafter. She was to be discharged on ___ but had 
an episode of DOE while ambulating to the bathroom. CXR showed 
CHF and she was kept for further diuresis. Diuretic regimen on 
discharge was 20mg QD.  She has close f/u with PCP 1 week after 
discharge for volume status assessment and further titration of 
diuretics as necessary.  In addition she will be discharged with 
21 hours of service and ___ with instruction for daily weights 
and communication with PCP if weights increase.

Inactive Issues:
#Atrial fibrillation/flutter: She has a history of atrial 
fibrillation and flutter, including recent admission for 
bradycardia attributed to atrial flutter with variable block. 
Admission EKG revealed normal sinus rhythm, and she remained in 
sinus rhythm on telemetry. Home dabigatran was administerd 
initially, but subsequently held as above in the setting of 
NSTEMI. Dabigatran 75 mg BID was restarted prior to discharge. 

#Hypertension: Home lisinopril was continued. She remained 
hypertensive in-house and due to multiple drug allergies, imdur 
60 mg was started in addition.  She continued with isolated 
hypertension in the very early morning but was normotensive 
throughout the day after medication administration so no further 
changes were made.

#Hyperlipidemia: Home pravastatin was held in favor of 
atorvastatin as above.

#Anemia/thrombocytopenia: Hematocrit and platelets were 33.7 and 
142, respectively, on admission, consistent with recent 
baseline. She remained hemodynamically stable without signs of 
active bleeding.

#Gastroesophageal reflux: Home pantoprazole was continued. 

Transitional Issues: 
- monitoring of volume status and titration of diuretic 
according to weights/kidney function
- atorvastatin was increased to 80 mg and aspirin to 325 mg, 
which can be downtitrated per cardiology

 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Dabigatran Etexilate 75 mg PO BID 
3. Fluticasone Propionate NASAL 2 SPRY NU QPM 
4. Lidocaine 5% Patch 1 PTCH TD DAILY 
RLE pain 
5. Lisinopril 40 mg PO DAILY 
6. Multivitamins W/minerals 1 TAB PO DAILY 
7. Pantoprazole 40 mg PO Q24H 
8. Pravastatin 10 mg PO DAILY 
9. Docusate Sodium 100 mg PO HS 
___ hold for loose stool 
10. Acetaminophen 1000 mg PO Q8H:PRN pain 
Please ___ before giving for fever 
11. Docusate Sodium 100 mg PO DAILY:PRN constipation 
12. Senna 1 TAB PO DAILY:PRN constipation 

 
Discharge Medications:
1. Acetaminophen 500 mg PO Q6H:PRN pain 
2. Aspirin 325 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3
3. Docusate Sodium 100 mg PO BID 
4. Fluticasone Propionate NASAL 2 SPRY NU QPM 
5. Lidocaine 5% Patch 1 PTCH TD DAILY 
RLE pain 
6. Lisinopril 40 mg PO DAILY 
7. Multivitamins W/minerals 1 TAB PO DAILY 
8. Pantoprazole 40 mg PO Q24H 
9. Senna 1 TAB PO DAILY:PRN constipation 
10. Atorvastatin 80 mg PO DAILY 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily at night Disp 
#*30 Tablet Refills:*3
11. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
RX *isosorbide mononitrate 60 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*3
12. Dabigatran Etexilate 75 mg PO BID 
13. Furosemide 20 mg PO DAILY 
RX *furosemide 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: 
Acute diastolic CHF exacerbation
NSTEMI
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
It was a pleasure caring for you at ___ 
___. You were admitted for a headache and for nausea. 
You were found to have too much fluid in your body (heart 
failure) and this was causing stress to your heart. We treated 
you with diuretics and with medications to improve the blood 
flow to your heart. Your blood pressure was also found to be too 
high so we added a new blood pressure medication. 
 
Followup Instructions:
___